2169-03-16 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 83 year old female with history of biliary
   obstruction, polymicrobial bacteremia from cholantitis presenting with
   fever, altered mental status concerning for ascending cholangitis.
   24 Hour Events:
   Lactate still elevated at 3.8
   UOP low at 2am - given bolus
   ID: Linezolid and Meropenem.
   Needs access but continues to be febrile.
   OSH Cultures: GNR no speciation.
   ERCP: Stent obstruction by stones and sludge was found - stents were
   dredged using a balloon. (stone extraction)
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2169-3-15**] 10:00 AM
   Linezolid - [**2169-3-15**] 08:00 PM
   Meropenem - [**2169-3-16**] 06:08 AM
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-3-16**] 12:00 AM
   Other medications:
   1. Linezolid 600 mg IV Q12H
   2. Meropenem 500 mg IV Q6H
   3. Pantoprazole 40 mg IV Q24H  Order date: [**3-14**] @ 2332
   4. Acetaminophen 650 mg PR Q6H:PRN fever
   5. Carbidopa-Levodopa (25-100) 1 TAB PO TID
   6. Pramipexole *NF* .375 mg Oral TID
   7. Insulin SC  sliding scale
   8. Simvastatin 10 mg PO DAILY
   9. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN
   Flowsheet Data as of  [**2169-3-16**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 35.3
C (95.5
   HR: 80 (73 - 130) bpm
   BP: 132/63(104) {90/39(52) - 222/136(158)} mmHg
   RR: 20 (20 - 39) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,870 mL
                                                                  1,043 mL
   PO:
             TF:
   IVF:
                                                                  5,599 mL
                                                                  1,043 mL
   Blood products:
                                                                    271 mL
   Total out:
                                                                    792 mL
                                                                    133 mL
   Urine:
                                                                    792 mL
                                                                    133 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,078 mL
                                                                    910 mL
   Physical Examination
   Gen: elderly, very warm, somnolent but follows with eyes.
   HEENT: MMM, OP clear
   Neck: No JVP
   Car: Tachycardic, no murmurs appreciated
   Resp: course BS bilaterally transmitted from O2.
   Abd: soft, +BS, ND, ? pain in [**Name (NI) 5117**] - pt opens eyes wide.
   Ext: strong distal pulses, bilateral edema
   Neuro: somnolent, unable to participate in neuro exam.
   Labs / Radiology
   129 K/uL
   10.8 g/dL
   140 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.1 mEq/L
   18 mg/dL
   111 mEq/L
   142 mEq/L
   32.9 %
   21.6 K/uL
        [image002.jpg]
                             [**2169-3-15**]  01:27 AM
                             [**2169-3-15**]  03:30 AM
                             [**2169-3-15**]  03:10 PM
                             [**2169-3-15**]  10:07 PM
                             [**2169-3-16**]  03:58 AM
   WBC
   15.8
   19.1
   21.6
   Hct
   39
   34.6
   32.1
   32.9
   Plt
   160
   121
   129
   Cr
   0.7
   0.6
   0.8
   0.6
   TCO2
   28
   Glucose
   199
   107
   290
   140
   Other labs: PT / PTT / INR:16.6/29.2/1.5, ALT / AST:44/42, Alk Phos / T
   Bili:165/1.4, Differential-Neuts:84.0 %, Band:8.0 %, Lymph:2.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:3.8 mmol/L, Albumin:2.7 g/dL,
   LDH:155 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   83 year old female with history of biliary obstruction, polymicrobial
   bacteremia from cholantitis presenting with fever, altered mental
   status concerning for ascending cholangitis.
 SEPSIS WITHOUT ORGAN DYSFUNCTION: Initially met SIRS criteria based
   on fevers, tachycardia and leukocytosis, now fevers and tachycardia
   resolved, leukocytosis improved. Noninvasive blood pressures have
   remained stable. Although no change in biliary dilitation, cholangitis
   is most likely etiology.
   - continue Linezolid and Meropenem per ID recs. [**Month (only) 8**] dc Linezolid if VRE
   doesn
t grow (OSH cultures with just GNR)
   - s/p ERCP with stone and sludge removal.
   - CT scan today to evaluate for hepatic abscesses to determine length
   of antibiotic course
   - currently no CVL for CVP measurement but BPs have remained stable
   with SBP 120s. Goal IVF per clinical hypovolemia.
   - if BPs drop consider CVL and ABG for CVP, BP and pressors.
   .
 COAGULOPATHY: INR initially supratherapeutic, reversed for ERCP
   - restart coumadin.  Confirm dose.
   .
   #. Diabetes- holding home glyburide
   - QID FS and ISS
   .
   #. CAD: last echo in [**Month (only) 2877**] with EF >55%, normal systolic function,
   mild MR. [**First Name (Titles) **] [**Last Name (Titles) 5118**], hold BP meds
   .
   #. HTN: holding home BP regimen
   .
   #. Afib: Pt supratherpeutic on coumadin.
   .
   #. Parkinsons: continue Sinimet and Pramipexole
   .
   #. Goals of care: tbw PCP today given repeated presentations of sepsis.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2169-3-14**] 11:00 PM
   Needs PICC
   Prophylaxis:
   DVT: Anticoagulated
   Stress ulcer: PPI
   Communication:  Husband
   [**Name (NI) 156**] status: DNR / DNI
   Disposition: ICU

2169-03-17 06:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   83 year old female with history of biliary obstruction, polymicrobial
   bacteremia from cholantitis presenting with fever, altered mental
   status concerning for ascending cholangitis.
   24 Hour Events:
   - U/o stayed at 30cc/h
   - Bolused 1L, no response in U/O
   - Got IV metoprolol 5mg x2, then 7.5mg for afib RVR, but no response.
   Pt maintained BP during afib RVR
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2169-3-15**] 10:00 AM
   Linezolid - [**2169-3-16**] 10:10 PM
   Meropenem - [**2169-3-17**] 05:55 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2169-3-17**] 02:08 AM
   Other medications:
   Flowsheet Data as of  [**2169-3-17**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.4
C (95.7
   HR: 118 (69 - 129) bpm
   BP: 139/81(94) {100/43(59) - 140/91(100)} mmHg
   RR: 23 (18 - 34) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  4,279 mL
                                                                    541 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  4,159 mL
                                                                    541 mL
   Blood products:
   Total out:
                                                                    431 mL
                                                                     60 mL
   Urine:
                                                                    431 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,848 mL
                                                                    481 mL
   Physical Examination
   Gen: elderly, alert and oriented
   HEENT: MMM, OP clear, face tent in place
   Neck: No JVP
   Car: Tachycardic, no murmurs appreciated
   Resp: course BS bilaterally transmitted from O2.
   Abd: soft, +BS, ND, NT
   Ext: strong distal pulses, bilateral edema
   Neuro: A+Ox3
   Labs / Radiology
   115 K/uL
   12.2 g/dL
   185 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.8 mEq/L
   15 mg/dL
   110 mEq/L
   141 mEq/L
   35.8 %
   16.1 K/uL
        [image002.jpg]
                             [**2169-3-15**]  01:27 AM
                             [**2169-3-15**]  03:30 AM
                             [**2169-3-15**]  03:10 PM
                             [**2169-3-15**]  10:07 PM
                             [**2169-3-16**]  03:58 AM
                             [**2169-3-16**]  07:46 PM
                             [**2169-3-17**]  04:58 AM
   WBC
   15.8
   19.1
   21.6
   18.2
   16.1
   Hct
   39
   34.6
   32.1
   32.9
   35.7
   35.8
   Plt
   160
   121
   129
   109
   115
   Cr
   0.7
   0.6
   0.8
   0.6
   0.5
   0.5
   TCO2
   28
   Glucose
   199
   107
   290
   140
   122
   185
   Other labs: PT / PTT / INR:16.6/29.2/1.5, ALT / AST:28/27, Alk Phos / T
   Bili:176/1.2, Differential-Neuts:90.0 %, Band:5.0 %, Lymph:4.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, Albumin:2.7 g/dL,
   LDH:170 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   83 year old female with history of biliary obstruction, polymicrobial
   bacteremia from cholantitis presenting with fever, altered mental
   status concerning for ascending cholangitis.
 SEPSIS WITHOUT ORGAN DYSFUNCTION,
 CHOLELITHIASIS,
 CANCER
   (MALIGNANT NEOPLASM), CHOLANGIOCARCINOMA / GALLBLADDER,
 CHOLANGITIS:
   Clinically much improved. Mentating well, BPs and HR improved. However
   lactate and urine output dropping.
   - continue Linezolid and Meropenem per ID recs. [**Month (only) 8**] dc Linezolid if VRE
   doesn
t grow (OSH cultures with just GNR)
   - s/p ERCP with stone and sludge removal.
   - will need CT scan to evaluate for hepatic abscesses to determine
   length of antibiotic course
   - minimal access (1 PIV)-> will try to get another PIV and PICC once
   24hrs afebrile. If clinically worsens may require CVL. Unclear if
   pressors are indicated as ERCP cleaning is likely ultimately the most
   effective way to solve the underlying problem.
   - 1L D5W c 3amps bicarb and reassess.
   .
 COAGULOPATHY: INR initially supratherapeutic, reversed for ERCP
   - will hold off restarting anticoagulation as prognosis so poor.
   .
 OLIGURIA/ANURIA: in setting of hypotension
   .
   #
 DIABETES MELLITUS (DM), TYPE II
   - holding home glyburide
   - QID FS and ISS
   .
   #. CAD: last echo in [**Month (only) 2877**] with EF >55%, normal systolic function,
   mild MR. [**First Name (Titles) **] [**Last Name (Titles) 5118**], hold BP meds
   .
   #. HTN: holding home BP regimen
   .
 ATRIAL FIBRILLATION (AFIB): holding anticoagulation.
   .
 PARKINSON'S DISEASE
   - continue Sinimet and Pramipexole
   .
   #. Goals of care: tbw PCP today given repeated presentations of sepsis
   and re: not restarting anticoagulation.
   ICU Care
   Nutrition: NPO, advance to liquids
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2169-3-14**] 11:00 PM
   Needs PICC
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   Communication:  Husband
   [**Name (NI) 156**] status: DNR / DNI
   Disposition: ICU

2169-03-18 08:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   83 year old female with history of biliary obstruction, polymicrobial
   bacteremia from cholantitis presenting with fever, altered mental
   status concerning for ascending cholangitis.
   24 Hour Events:
 PICC LINE - START [**2169-3-17**] 02:22 PM
   (still not making much urine, and tachycardic)
   - switched abx to CTX, later turns out that they wanted a large dose
   that requires ID approval, so will need that before can get 2gms
   tomorrow.
   - giving IVF boluses with D5bicarb, but urine output bad
   - Pt received lopressor 5mg IV x1 w/ hr in 140s in Afib.
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2169-3-15**] 10:00 AM
   Linezolid - [**2169-3-17**] 08:13 AM
   Meropenem - [**2169-3-17**] 12:39 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-18**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.2
C (95.4
   HR: 84 (84 - 133) bpm
   BP: 138/69(85) {108/60(53) - 166/101(119)} mmHg
   RR: 21 (19 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,215 mL
                                                                  1,082 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  2,115 mL
                                                                  1,082 mL
   Blood products:
   Total out:
                                                                    285 mL
                                                                     70 mL
   Urine:
                                                                    285 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,930 mL
                                                                  1,012 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   Gen: elderly, alert and oriented
   HEENT: MMM, OP clear, face tent in place
   Neck: No JVP
   Car: Tachycardic, no murmurs appreciated
   Resp: course BS bilaterally transmitted from O2.
   Abd: soft, +BS, ND, NT
   Ext: strong distal pulses, bilateral edema
   Neuro: A+Ox3
   Labs / Radiology
   116 K/uL
   12.4 g/dL
   146 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.3 mEq/L
   14 mg/dL
   105 mEq/L
   143 mEq/L
   37.1 %
   11.3 K/uL
        [image002.jpg]
                             [**2169-3-15**]  01:27 AM
                             [**2169-3-15**]  03:30 AM
                             [**2169-3-15**]  03:10 PM
                             [**2169-3-15**]  10:07 PM
                             [**2169-3-16**]  03:58 AM
                             [**2169-3-16**]  07:46 PM
                             [**2169-3-17**]  04:58 AM
                             [**2169-3-18**]  04:30 AM
   WBC
   15.8
   19.1
   21.6
   18.2
   16.1
   11.3
   Hct
   39
   34.6
   32.1
   32.9
   35.7
   35.8
   37.1
   Plt
   160
   121
   129
   109
   115
   116
   Cr
   0.7
   0.6
   0.8
   0.6
   0.5
   0.5
   0.4
   TCO2
   28
   Glucose
   199
   107
   290
   140
   122
   185
   146
   Other labs: PT / PTT / INR:16.6/29.2/1.5, ALT / AST:28/27, Alk Phos / T
   Bili:176/1.2, Differential-Neuts:90.0 %, Band:5.0 %, Lymph:4.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, Albumin:2.7 g/dL,
   LDH:170 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   83 year old female with history of biliary obstruction, polymicrobial
   bacteremia from cholantitis presenting with fever, altered mental
   status concerning for ascending cholangitis.
 SEPSIS WITHOUT ORGAN DYSFUNCTION,
 CHOLELITHIASIS,
 CANCER
   (MALIGNANT NEOPLASM), CHOLANGIOCARCINOMA / GALLBLADDER,
 CHOLANGITIS:
   Clinically much improved sp ERCP and clearing of obstruction. Mentating
   well, BPs. However has been tachycardic with minimal UOP.
   - ID rec ceftriaxone 2g IV q24 (w/ Klebsiella as organism, and covering
   for SBP)
   - will eventually need CT scan to evaluate for hepatic abscesses to
   determine length of antibiotic course
   - PICC for access.
   - 1L D5W c 3amps bicarb and reassess.
   .
 COAGULOPATHY: INR initially supratherapeutic, reversed for ERCP
   - will hold off restarting anticoagulation as prognosis so poor.
   .
 OLIGURIA/ANURIA: in setting of hypotension.
   - maintenece fluids 100ml/h
   .
 DIABETES MELLITUS (DM), TYPE II
   - holding home glyburide
   - QID FS and ISS
   .
   #. CAD: last echo in [**Month (only) 2877**] with EF >55%, normal systolic function,
   mild MR. [**First Name (Titles) **] [**Last Name (Titles) 5118**], hold BP meds
   .
   #. HTN: holding home BP regimen
   .
 ATRIAL FIBRILLATION (AFIB): holding anticoagulation.
   .
 PARKINSON'S DISEASE
   - continue Sinimet and Pramipexole
   ICU Care
   Nutrition: thickened liquids
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2169-3-14**] 11:00 PM
   PICC
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   Communication:  Husband
   [**Name (NI) 156**] status: DNR / DNI
   Disposition: ICU

2169-03-18 13:32:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 yo female with afib, biliary obstruction, probable metastatic
   cholangiocarcinoma admitted with Klebsiella cholangitis and sepsis
   resulting in AMS and coagulopathy.
   S/p ERCP, on Merepenem/linezolid
   24 Hour Events:
 PICC LINE - START [**2169-3-17**] 02:22 PM
   *Abx switched to CTX based on +Cx
   *Received fluid boluses for tachycardia/low uop
   History obtained from Medical records
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2169-3-17**] 08:13 AM
   Meropenem - [**2169-3-17**] 12:39 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2169-3-18**] 11:44 AM
   Other medications:
   zocor, pantoprazole, sinemet, mirapex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-18**] 01:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.8
C (96.5
   HR: 91 (82 - 127) bpm
   BP: 131/75(89) {120/60(76) - 166/101(119)} mmHg
   RR: 17 (17 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,215 mL
                                                                  1,192 mL
   PO:
                                                                    100 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,115 mL
                                                                  1,132 mL
   Blood products:
   Total out:
                                                                    285 mL
                                                                    205 mL
   Urine:
                                                                    285 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,930 mL
                                                                    987 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal, No(t) Distant,
   No(t) Loud)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   coarse BS
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   116 K/uL
   146 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.3 mEq/L
   14 mg/dL
   105 mEq/L
   143 mEq/L
   37.1 %
   11.3 K/uL
        [image002.jpg]
                             [**2169-3-15**]  01:27 AM
                             [**2169-3-15**]  03:30 AM
                             [**2169-3-15**]  03:10 PM
                             [**2169-3-15**]  10:07 PM
                             [**2169-3-16**]  03:58 AM
                             [**2169-3-16**]  07:46 PM
                             [**2169-3-17**]  04:58 AM
                             [**2169-3-18**]  04:30 AM
   WBC
   15.8
   19.1
   21.6
   18.2
   16.1
   11.3
   Hct
   39
   34.6
   32.1
   32.9
   35.7
   35.8
   37.1
   Plt
   160
   121
   129
   109
   115
   116
   Cr
   0.7
   0.6
   0.8
   0.6
   0.5
   0.5
   0.4
   TCO2
   28
   Glucose
   199
   107
   290
   140
   122
   185
   146
   Other labs: PT / PTT / INR:16.6/29.2/1.5, ALT / AST:28/27, Alk Phos / T
   Bili:176/1.2, Differential-Neuts:90.0 %, Band:5.0 %, Lymph:4.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, Albumin:2.7 g/dL,
   LDH:170 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 OLIGURIA/ANURIA
 PARKINSON'S DISEASE
 ATRIAL FIBRILLATION (AFIB)
 CHOLANGITIS
 CHOLELITHIASIS
 CANCER (MALIGNANT NEOPLASM), CHOLANGIOCARCINOMA / GALLBLADDER
 COAGULOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   83 yo female with met cholangiocarcinoma recovering from cholangitis
   with Klebsiella sepsis
   1. Sepsis: Appears to be resolving. Will change to CTX 2 gm IV q24
   hours per ID recs
   2. Decreased uop: likely dry given lack of po intake. Will add
   maintenance IVF
   3. Afib: On metoprolol as needed
   4. Parkinsons: continue sinemet and mirapex
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-3-16**] 08:29 PM
   PICC Line - [**2169-3-17**] 02:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:

2169-03-19 12:51:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 yo female with hx biliary obstruction from presumed met
   cholangiocarcinoma admitted with Klebsiella cholangitis/sepsis s/p ERCP
   24 Hour Events:
   *CTX dose confirmed with ID (2gm q24h)
   *Intermittent rapid AFib req. IV metoprolol on top of scheduled oral
   doses
   *Stll with low uop
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2169-3-17**] 08:13 AM
   Meropenem - [**2169-3-17**] 12:39 PM
   Ceftriaxone - [**2169-3-18**] 08:16 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2169-3-19**] 03:55 AM
   Pantoprazole (Protonix) - [**2169-3-19**] 08:00 AM
   Other medications:
   Zocor, sinemet, SSI, pramiprexole,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-19**] 12:36 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 127 (84 - 127) bpm
   BP: 155/100(105) {105/41(61) - 172/105(126)} mmHg
   RR: 27 (19 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,430 mL
                                                                  1,113 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  2,310 mL
                                                                  1,113 mL
   Blood products:
   Total out:
                                                                    355 mL
                                                                    150 mL
   Urine:
                                                                    355 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,075 mL
                                                                    963 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   Elderly white female, more alert today
   Lungs;limited bs but appear clear
   CV: irreg irreg
   Abd: soft, nontender, +bs
   Ext, 1+edema, dry turgor
   Labs / Radiology
   12.7 g/dL
   148 K/uL
   190 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.1 mEq/L
   10 mg/dL
   105 mEq/L
   140 mEq/L
   38.5 %
   9.2 K/uL
        [image002.jpg]
                             [**2169-3-15**]  01:27 AM
                             [**2169-3-15**]  03:30 AM
                             [**2169-3-15**]  03:10 PM
                             [**2169-3-15**]  10:07 PM
                             [**2169-3-16**]  03:58 AM
                             [**2169-3-16**]  07:46 PM
                             [**2169-3-17**]  04:58 AM
                             [**2169-3-18**]  04:30 AM
                             [**2169-3-19**]  04:10 AM
                             [**2169-3-19**]  05:10 AM
   WBC
   15.8
   19.1
   21.6
   18.2
   16.1
   11.3
   7.9
   9.2
   Hct
   39
   34.6
   32.1
   32.9
   35.7
   35.8
   37.1
   35.2
   38.5
   Plt
   160
   121
   129
   109
   115
   116
   119
   148
   Cr
   0.7
   0.6
   0.8
   0.6
   0.5
   0.5
   0.4
   0.5
   TCO2
   28
   Glucose
   199
   107
   290
   140
   122
   185
   146
   190
   Other labs: PT / PTT / INR:16.6/29.2/1.5, ALT / AST:28/27, Alk Phos / T
   Bili:176/1.2, Differential-Neuts:68.5 %, Band:5.0 %, Lymph:22.5 %,
   Mono:5.7 %, Eos:3.0 %, Lactic Acid:2.2 mmol/L, Albumin:2.7 g/dL,
   LDH:170 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 DIABETES MELLITUS (DM), TYPE II
 OLIGURIA/ANURIA
 PARKINSON'S DISEASE
 ATRIAL FIBRILLATION (AFIB)
 CHOLANGITIS
 CHOLELITHIASIS
 CANCER (MALIGNANT NEOPLASM), CHOLANGIOCARCINOMA / GALLBLADDER
 COAGULOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   83 yo female with metatsatic cholangioCRC admitted with cholangitis,
   Klebsiella sepsis/ s/p ERCP. Overall appears to be improving though has
   continued to have intermittent rapid afib requiring IV metoprolol
   1.       Afib: On low dose of standing metoprolol, will increase to 25
   mg and supplement with IV metoprolol. Appears volume depleted with
   concentrated urine and pt taking minimal po intake- will fluid
   resucitate
   2.       Klebsiella sepsis: no s/sx recurrent infection- continue CTX
   3.       Diarrhea- increased stool output per nurse- check Cdiff
   4.       Rest of plan per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-3-16**] 08:29 PM
   PICC Line - [**2169-3-17**] 02:22 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 min
   Pt critically ill

2169-03-19 14:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 83 year old female with history of biliary
   obstruction, polymicrobial bacteremia from cholantitis presenting with
   fever, altered mental status concerning for ascending cholangitis.
   24 Hour Events:
   - confirmed w/ ID pt is supposed to be on ctx 2g q24
   - in daytime pt was given metop 5 IV x1 for RVR and put on metop 12.5
   TID
   - throughout night required metop 5 IV x5.
   - UOP is unchanged, contd 10-20 cc/h
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2169-3-17**] 08:13 AM
   Meropenem - [**2169-3-17**] 12:39 PM
   Ceftriaxone - [**2169-3-18**] 08:16 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2169-3-19**] 03:55 AM
   Pantoprazole (Protonix) - [**2169-3-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-19**] 02:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (97
   HR: 131 (92 - 131) bpm
   BP: 147/76(95) {105/41(61) - 172/105(126)} mmHg
   RR: 27 (20 - 30) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,430 mL
                                                                  1,631 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  2,310 mL
                                                                  1,631 mL
   Blood products:
   Total out:
                                                                    355 mL
                                                                    164 mL
   Urine:
                                                                    355 mL
                                                                    164 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,075 mL
                                                                  1,467 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, EOMI
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, dry
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   148 K/uL
   12.7 g/dL
   190 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.1 mEq/L
   10 mg/dL
   105 mEq/L
   140 mEq/L
   38.5 %
   9.2 K/uL
        [image002.jpg]
                             [**2169-3-15**]  01:27 AM
                             [**2169-3-15**]  03:30 AM
                             [**2169-3-15**]  03:10 PM
                             [**2169-3-15**]  10:07 PM
                             [**2169-3-16**]  03:58 AM
                             [**2169-3-16**]  07:46 PM
                             [**2169-3-17**]  04:58 AM
                             [**2169-3-18**]  04:30 AM
                             [**2169-3-19**]  04:10 AM
                             [**2169-3-19**]  05:10 AM
   WBC
   15.8
   19.1
   21.6
   18.2
   16.1
   11.3
   7.9
   9.2
   Hct
   39
   34.6
   32.1
   32.9
   35.7
   35.8
   37.1
   35.2
   38.5
   Plt
   160
   121
   129
   109
   115
   116
   119
   148
   Cr
   0.7
   0.6
   0.8
   0.6
   0.5
   0.5
   0.4
   0.5
   TCO2
   28
   Glucose
   199
   107
   290
   140
   122
   185
   146
   190
   Other labs: PT / PTT / INR:16.6/29.2/1.5, ALT / AST:28/27, Alk Phos / T
   Bili:176/1.2, Differential-Neuts:68.5 %, Band:5.0 %, Lymph:22.5 %,
   Mono:5.7 %, Eos:3.0 %, Lactic Acid:2.2 mmol/L, Albumin:2.7 g/dL,
   LDH:170 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   83 year old female with history of biliary obstruction, polymicrobial
   bacteremia from cholantitis presenting with fever, altered mental
   status concerning for ascending cholangitis.
 SEPSIS WITHOUT ORGAN DYSFUNCTION,
 CHOLELITHIASIS,
 CANCER
   (MALIGNANT NEOPLASM), CHOLANGIOCARCINOMA / GALLBLADDER,
 CHOLANGITIS:
   Clinically much improved sp ERCP and clearing of obstruction. Mentating
   well, BPs. However has been tachycardic with minimal UOP.
   - ID rec ceftriaxone 2g IV q24 (w/ Klebsiella as organism, and covering
   for SBP)
   - will eventually need CT scan to evaluate for hepatic abscesses to
   determine length of antibiotic course
   - PICC for access.
   - 500cc bolus and 150cc/hrx5h of NS
 ATRIAL FIBRILLATION (AFIB): holding anticoagulation.
   - Increase Metoprolol to 25 po tid
   - IVF as above
 COAGULOPATHY: INR initially supratherapeutic, reversed for ERCP
   - will hold off restarting anticoagulation as PO intake poor
 OLIGURIA/ANURIA: in setting of hypotension. Suspect dehydration.
   - IVF as above
 DIABETES MELLITUS (DM), TYPE II
   - holding home glyburide
   - QID FS and ISS
   #. CAD: last echo in [**Month (only) 2877**] with EF >55%, normal systolic function,
   mild MR. [**First Name (Titles) **] [**Last Name (Titles) 5118**], hold BP meds
   #. HTN: holding home BP regimen
 PARKINSON'S DISEASE
   - continue Sinimet and Pramipexole
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-3-16**] 08:29 PM
   PICC Line - [**2169-3-17**] 02:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition:

2169-03-20 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 83 year old female with history of biliary
   obstruction, polymicrobial bacteremia from cholantitis presenting with
   fever, altered mental status concerning for ascending cholangitis
   24 Hour Events:
   - rate better controlled on metoprolol 25 po tid
   - U/O cont at 10-20cc/hr
   - Had to go on 2L O2 NC
   - CXR showed edema
   - Lasix 10 IV x1
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2169-3-17**] 08:13 AM
   Meropenem - [**2169-3-17**] 12:39 PM
   Ceftriaxone - [**2169-3-19**] 07:51 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-3-19**] 08:00 AM
   Furosemide (Lasix) - [**2169-3-19**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-20**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 131 (81 - 131) bpm
   BP: 136/91(102) {108/55(74) - 174/112(126)} mmHg
   RR: 28 (20 - 31) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,830 mL
                                                                    123 mL
   PO:
             TF:
   IVF:
                                                                  2,830 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                    848 mL
                                                                    285 mL
   Urine:
                                                                    848 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,982 mL
                                                                   -163 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, EOMI
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: b/l rales
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 2+ LE edema
   Skin:  Warm, dry
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   167 K/uL
   12.6 g/dL
   112 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.3 mEq/L
   10 mg/dL
   106 mEq/L
   140 mEq/L
   38.9 %
   10.6 K/uL
        [image002.jpg]
                             [**2169-3-15**]  03:30 AM
                             [**2169-3-15**]  03:10 PM
                             [**2169-3-15**]  10:07 PM
                             [**2169-3-16**]  03:58 AM
                             [**2169-3-16**]  07:46 PM
                             [**2169-3-17**]  04:58 AM
                             [**2169-3-18**]  04:30 AM
                             [**2169-3-19**]  04:10 AM
                             [**2169-3-19**]  05:10 AM
                             [**2169-3-20**]  05:08 AM
   WBC
   15.8
   19.1
   21.6
   18.2
   16.1
   11.3
   7.9
   9.2
   10.6
   Hct
   34.6
   32.1
   32.9
   35.7
   35.8
   37.1
   35.2
   38.5
   38.9
   Plt
   160
   121
   129
   109
   115
   116
   119
   148
   167
   Cr
   0.7
   0.6
   0.8
   0.6
   0.5
   0.5
   0.4
   0.5
   0.5
   Glucose
   199
   107
   290
   140
   122
   185
   146
   190
   112
   Other labs: PT / PTT / INR:16.6/29.2/1.5, ALT / AST:28/27, Alk Phos / T
   Bili:176/1.2, Differential-Neuts:68.5 %, Band:5.0 %, Lymph:22.5 %,
   Mono:5.7 %, Eos:3.0 %, Lactic Acid:2.2 mmol/L, Albumin:2.7 g/dL,
   LDH:170 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   83 year old female with history of biliary obstruction, polymicrobial
   bacteremia from cholantitis presenting with fever, altered mental
   status concerning for ascending cholangitis.
 CHOLANGITIS
 SEPSIS WITHOUT ORGAN DYSFUNCTION,
 CHOLELITHIASIS,
   CANCER (MALIGNANT NEOPLASM), CHOLANGIOCARCINOMA / GALLBLADDER,: Pt no
   longer in sepsis physiology, clinically much improved s/p ERCP and
   clearing of obstruction. Mentating well, BPs. However has been
   tachycardic with minimal UOP.
   - ID rec ceftriaxone 2g IV q24 (w/ Klebsiella as organism, and covering
   for SBP)
   - will eventually need CT scan to evaluate for hepatic abscesses to
   determine length of antibiotic course
   - PICC for access.
 ATRIAL FIBRILLATION (AFIB): holding anticoagulation.
   - Increase Metoprolol to 50 TID
   - will add dig if pt still tachy
   # Volume overload
 Pt fluid overloaded, once pt
s afib is stable will
   restart home Lasix, until then will bolus
   - Lasix 20 IV x1
 COAGULOPATHY: INR initially supratherapeutic, reversed for ERCP
   - will hold off restarting anticoagulation, will speak to PCP
 [**Name Initial (PRE) 5193**]/ANURIA: in setting of hypotension. Suspect dehydration.
   - IVF as above
 DIABETES MELLITUS (DM), TYPE II
   - holding home glyburide
   - QID FS and ISS
   #. CAD: last echo in [**Month (only) 2877**] with EF >55%, normal systolic function,
   mild MR. [**First Name (Titles) **] [**Last Name (Titles) 5118**], hold BP meds
   #. HTN: holding BP meds until Afib stable
   - tomorrow may restart home lisinopril 10 and Lasix 40 [**Hospital1 **]
 PARKINSON'S DISEASE
   - continue Sinimet and Pramipexole
   # FEN- failed swallow study, will get video swallow tomorrow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2169-3-17**] 02:22 PM
   Prophylaxis:
   DVT:  boots, starting SQH
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: